US05554621
Example 23: 1,4-Dihydro-4-[3-[[3-chloro-1-oxo-1-propyl]amino]phenyl]-2,6-dimethyl-3,5-pyridinedicarboxylic acid, dimethyl ester
4-(3-Aminophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid, dimethyl ester (0.8 g, 2.53 mmol) was dissolved in THF (50 mL) and cooled to 0° C. 3-Chloropropionyl chloride (0.32 g, 2.53 mmol) was dissolved in THF (15 mL) and added dropwise to the mixture over 10 min. The mixture was stirred at 0° C. for 1 h., concentrated in vacuo, and the residue extracted with CH2Cl2 /brine. The CH2Cl2 layer was dried over Na2SO4, filtered, and concentrated in vacuo. Silica gel chromatography (1:1 to 1:0 EtOAc:hexane gradient) gave the title compound (1.05 g, 100%) as a pale yellow foam.

reactant | 4-(3-Aminophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid, dimethyl ester | 2.53 mmol, 0.8 g | NC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C17H20N2O4
reactant | 3-Chloropropionyl chloride | 2.53 mmol, 0.32 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1,4-Dihydro-4-[3-[[3-chloro-1-oxo-1-propyl]amino]phenyl]-2,6-dimethyl-3,5-pyridinedicarboxylic acid, dimethyl ester | 1.05 g, 100% | ClCCC(=O)NC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C20H23ClN2O5
